US07563900B2
2-bromo-1-fluoro-4-nitro benzene
In a 20 L 4-necked RB flask, fitted with a mechanical stirrer, reflux condenser, add DM water (550 ml), conc. Sulphuric acid (6.2 L, 113 M), 4-fluronitrobenzene(1.0 kg, 7.09 M) at 25-35° C. under stirring. The reaction mixture was cooled to 10° C. and bromine (1.13 kg, 7.06 M) was added to reaction mixture under stirring. The reaction mixture was brought to temp. 25-35° C., silver sulfate (1.1 kg, ˜3.53 M) was added in one portion to the reaction mixture at 25-35° C. and maintained for 30-32 h under stirring. Monitor the progress of the reaction by GC and after ascertaining completion, the reaction mixture was poured slowly into ice cold water (12 L) and dichloromethane (12 L) mixture. Filter the insoluble and wash the inorganic with dichloromethane (2 L). Combine the organic layer, wash with 10% sodium bicarbonate (3 L), water (5 L). The dichloromethane layer was distilled below 40° C. under vacuum and add n-Hexane (4.5 L) to the residue. The resulting mass was stirred at 25-35° C. for 4-5 hr, filter the product and dried in vacuum oven below 35° C. till LOD reaches <1%. The dried product appears as white lustrous crystalline solid, weighs about 1.1-1.2 kg, yield 70-77%, purity 97-98% by HPLC, m.p. 56-58° C. The structure assigned to the product is in agreement with spectral data.

reactant | water | 550 ml | O | H2O
reactant | Sulphuric acid | 113 M, 6.2 L | S(O)(O)(=O)=O | H2O4S
reactant | 4-fluronitrobenzene | 7.09 M, 1.0 kg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | bromine | 7.06 M, 1.13 kg | BrBr | Br2
catalyst | silver sulfate | ˜3.53 M, 1.1 kg | S(=O)(=O)([O-])[O-].[Ag+2]
solvent | dichloromethane | 12 L | ClCCl | CH2Cl2
product | 2-bromo-1-fluoro-4-nitro benzene | yield 70-77% | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
